US07241785B2
A mixture of ethyl 3-(3-hydroxy-1-phenyl-1H-pyrazol-5-yl)propionate (500 mg), 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole (600 mg), potassium carbonate (530 mg) and N,N-dimethylformamide (10 ml) was stirred at 60° C. for 4 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-[3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]-1-phenyl-1H-pyrazol-5-yl]propionate (980 mg, yield 95%) was obtained as a colorless oil from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio).

reactant | ethyl 3-(3-hydroxy-1-phenyl-1H-pyrazol-5-yl)propionate | 500 mg | OC1=NN(C(=C1)CCC(=O)OCC)C1=CC=CC=C1 | C14H16N2O3
reactant | 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole | 600 mg | ClCC1=CC=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C18H16ClNO2
reactant | potassium carbonate | 530 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 3-[3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]-1-phenyl-1H-pyrazol-5-yl]propionate | 980 mg, yield 95% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC2=NN(C(=C2)CCC(=O)OCC)C2=CC=CC=C2)C=C1 | C32H31N3O5
